US06271237B1
Methyl 1-[2-(azidomethyl)phenyl]pyrazole-5-carboxylate:
To a solution of methyl 1-[2-(bromomethyl)phenyl]pyrazole-5-carboxylate (1.30 g, 4.40 mmol) in 10 mL of N,N-dimethylformamide was added sodium azide (2.86 g, 44.0 mmol). This mixture was stirred at ambient temperature for 48 h and then was diluted with ethyl acetate. The organics were washed with water and brine, dried (MgSO4) and concentrated to afford 0.80 g (71%) of the title compound which was used directly without purification. LRMS (ES+): 280.1 (M+Na)+.

reactant | methyl 1-[2-(bromomethyl)phenyl]pyrazole-5-carboxylate | 4.40 mmol, 1.30 g | BrCC1=C(C=CC=C1)N1N=CC=C1C(=O)OC | C12H11BrN2O2
reactant | sodium azide | 44.0 mmol, 2.86 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 1-[2-(azidomethyl)phenyl]pyrazole-5-carboxylate | 0.80 g, 71% | N(=[N+]=[N-])CC1=C(C=CC=C1)N1N=CC=C1C(=O)OC | C12H11N5O2
